2144-08-17 07:13:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   - Vascular consulted for multiple gangrenous limbs, did not think he
   needed urgent amputation and did not feel the right foot was the source
   of his sepsis.  They recommend ABIs (but I don't know how to place the
   order)
   - foot films suggestive of multiple sites of osteo, worst at right foot
   - levophed weaned from 0.5 to 0.1
   - gentle fluid boluses with good effect
   - awaiting family meeting at 11:30 tomorrow morning
   History obtained from [**Hospital 228**] Medical records
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-16**] 08:44 PM
   Ciprofloxacin - [**2144-8-16**] 11:44 PM
   Piperacillin - [**2144-8-16**] 11:45 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2144-8-17**] 06:51 AM
   Other medications:
   Insulin SS
   Sarna
   Cipro/Zosyn/Vanco
   Plavix
   Aspirin 81
   Atrovent
   Albuterol
   Seroquel
   Aranesp
   Miralax prn
   Senna
   Pantoprazole
   MVI
   Levophed drip at 0.1 mcg/kg/min
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.3
C (95.6
   HR: 85 (78 - 130) bpm
   BP: 91/47(56) {60/31(41) - 115/75(98)} mmHg
   RR: 24 (0 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,020 mL
                                                                    705 mL
   PO:
             TF:
   IVF:
                                                                  1,020 mL
                                                                    605 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,020 mL
                                                                    705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.36/51/25/27/0
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   10.6 g/dL
   21 mg/dL
   5.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   41 mg/dL
   100 mEq/L
   141 mEq/L
   34.9 %
   14.7 K/uL
        [image002.jpg]
                             [**2144-8-16**]  06:24 PM
                             [**2144-8-16**]  06:35 PM
                             [**2144-8-16**]  09:00 PM
                             [**2144-8-16**]  11:00 PM
                             [**2144-8-17**]  12:00 AM
                             [**2144-8-17**]  04:36 AM
   WBC
   14.0
   14.7
   Hct
   33.9
   34.9
   Plt
   261
   277
   Cr
   5.1
   5.3
   TropT
   0.24
   0.25
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 9855**]50
   21
   Other labs: PT / PTT / INR:33.6/40.3/3.4, CK / CKMB /
   Troponin-T:87//0.25, ALT / AST:35/24, Alk Phos / T Bili:165/0.7,
   Differential-Neuts:91.3 %, Band:0.0 %, Lymph:4.0 %, Mono:3.8 %, Eos:0.8
   %, Lactic Acid:2.1 mmol/L, Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9848**] is a 71 year old male with ESRD on HD, PVD, CAD s/p NSTEMI,
   here with altered mental status and sepsis requiring pressors likely
   secondary to osteo of right foot, although line infection or other
   sites of osteo cannot be excluded.
   .
   Sepsis.  Hypotension likely secondary to sepsis given that patient has
   elevated WBC and large amounts of necrotic tissue on both feet and
   hands.  Suspect that right foot osteo is the source, but may also be
   secondary to bacterial seeding from skin breakdown, line infection (has
   tunnelled HD line), or other occult source.  No clear source of
   pneumonia.  Given low voltages, will get echo to evaluate for effusion
   (though echo today at OSH did not show temponade).  Also, echo can be
   obtained to look for endocarditis.
   - follow up blood cultures, UA, UCx
   - f/u final read of foot and hand films to evaluate for osteo
   - vascular following but do not feel foot is the source
   - vanco/zosyn/cipro for double gram negative coverage in setting of
   diabetic foot osteo and GPC for dialysis patient with tunelled HD line
   - echo to evaluate EF and look for endocarditis
   - cycle cardiac enzymes
   - Levophed to maintain MAPS> 60, consider starting vasopressin if this
   causes significant tachycardia
   - obtain OSH records of micro data
   .
   Gangrenous foot and digits/ PVD.  Patient has b/l gangrenous toes and
   toe stumps which have significantly worsened over the last year. In
   [**10-22**], he was noted to have "a 2-cm ulceration over the site of the
   fifth digit TMA [on the left foot]."  Vascular evaluated the patient,
   but do not feel that he needs urgent amputation.  Foot films
   demonstrated osteo worst at the right foot.  He is likely not a
   surgical candidate given his recent NSTEMIs and was declined for
   revascularization.
   - vascular consult for management of gangrenous extremities
   - ABIs per vascular
   - vanco/zosyn/cipro to cover infection
   - continue aspirin, plavix
   - morphine PRN foot pain
   .
   Altered mental status.  Even with vietnamese translator, patient was
   confused, although has had some improvement of mental status throughout
   the night.  Likely delerium in the setting of hypotension and
   infection.  OVerall seems to be improving.
   - continue broad spectrum antibiotics
   - continue IVFs and pressors to maintain MAPs> 60
   - limit sedating meds, but will resume seroquel given agitation
   - will continue morphine in spite of sedating effects given the degree
   of his pain
   - consider head CT if no improvement of mental status over 24 hours
   .
   Type 2 Diabetes.  Patient presented with hypoglycemia at OSH but was
   hyperglycemic on arrival.  Had episodes of hypoglycemia overnight on
   insulin drip so transistion to ISS.
   - HISS
   - follow fingersticks
   .
   End stage renal disease on HD.  Likely secondary to diabetic
   nephropathy.  Has hyperphosphatemia.  No urgent dialysis needs.
   - will notify renal of his arrival, patient typically gets HD MWF but
   at this point would need CVVH given hypotension requiring pressors
   - initiate phos binders when eating
   .
   Hypertension.
   - hold antihypertensives in setting of hypotension requiring pressors
   .
   Coronary Artery Disease.  Patient with ischemic cardiomyopathy and
   significantly reduced EF over the course of 1 year.  Was told that he
   needed revascularization but was not felt to be a cath candidate.
   - continue aspirin and statin
   - hold BB
   .
   Depression.
   - continue seroquel, celexa
   .
   H/o A.fib with RVR.
   - hold coumadin in setting of supratherapeutic INR
   - follow INR
   .
   Goals of care.  Per medical record, patient would like to be DNR/DNI.
   According to the record, patient's daughter reversed his code status
   and "demanded that he be full code".  I spoke with both daughters and
   the wife through the hospital provided vietnamese interpreter and all
   three parties confirmed that the wife is the health care proxy.  She
   agrees with the patient's desires for DNR/DNI.  The wife and daughter
   will arrive tomorrow morning for a more formal goals of care discussion
   with a possible movement towards comfort measures if no overall
   improvement.  Awaiting family meeting today.
   .
   FEN: NPO pending improvement of mental status
   CODE: DNR/DNI
   PPx: coumadin, bowel regimen, PPI
   Dipso: ICU monitoring pending improvement of blood pressure
   Contact:  [**Name (NI) **] Mother - [**Telephone/Fax (1) 9850**] (h), cell is [**Telephone/Fax (1) 9851**].
   Sister  [**Telephone/Fax (1) 9852**] who is coming in from NJ this morning.  Another
   Sister - [**Telephone/Fax (1) 9853**].
   .
   ICU Care
   Nutrition:
   Comments: NPO pending improvement of mental status
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2144-8-16**] 06:46 PM
   20 Gauge - [**2144-8-16**] 06:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2144-08-17 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo male w/ PVD/ gangrene, ESRD on HD, CAD s/p NSTEMI, admitted [**8-16**]
   w/ presumed septic shock due to gangrene/ osteo as well as altered
   mental status.
   24 Hour Events:
   Received about 1.7L NS IVF yest w/ continued pressor requirement. Vasc
   [**Doctor First Name **] evaluated pt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-16**] 08:44 PM
   Ciprofloxacin - [**2144-8-16**] 11:44 PM
   Piperacillin - [**2144-8-16**] 11:45 PM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2144-8-17**] 06:51 AM
   Other medications:
   RISS, Protonix, MVI, Celexa, [**Last Name (LF) **], [**First Name3 (LF) 369**], Atrovent, coumadin (held)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-17**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35
C (95
   HR: 90 (78 - 130) bpm
   BP: 102/60(70) {60/31(41) - 115/75(98)} mmHg
   RR: 47 (0 - 47) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,020 mL
                                                                  1,061 mL
   PO:
             TF:
   IVF:
                                                                  1,020 mL
                                                                    961 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,020 mL
                                                                  1,061 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.36/51/25/27/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, dense bilat cataracts
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilbat bases, Wheezes :
   lateral bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Cyanosis
   Musculoskeletal: Muscle wasting, missing 4th DIP R hand, dusky changes
   R hand
   Skin:  Not assessed, R heel breakdown w/ dry gangrene, large area of
   dry gangrene on R 1st and 2nd digit, + surrounding erythema but no
   fluctuance or crepitance noted
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, inconsistently responds to questioning
   Labs / Radiology
   10.6 g/dL
   277 K/uL
   21 mg/dL
   5.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   41 mg/dL
   100 mEq/L
   141 mEq/L
   34.9 %
   14.7 K/uL
        [image002.jpg]
                             [**2144-8-16**]  06:24 PM
                             [**2144-8-16**]  06:35 PM
                             [**2144-8-16**]  09:00 PM
                             [**2144-8-16**]  11:00 PM
                             [**2144-8-17**]  12:00 AM
                             [**2144-8-17**]  04:36 AM
   WBC
   14.0
   14.7
   Hct
   33.9
   34.9
   Plt
   261
   277
   Cr
   5.1
   5.3
   TropT
   0.24
   0.25
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 9855**]50
   21
   Other labs: PT / PTT / INR:33.6/40.3/3.4, CK / CKMB /
   Troponin-T:87//0.25, ALT / AST:35/24, Alk Phos / T Bili:165/0.7,
   Differential-Neuts:91.3 %, Band:0.0 %, Lymph:4.0 %, Mono:3.8 %, Eos:0.8
   %, Lactic Acid:2.1 mmol/L, Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Imaging: [**8-16**] CXR- underpenetrated, poss CM, no infiltrate
   [**8-16**] Foot film- distal R 1st metatarsal w/ air noted. skin defects
   Microbiology: 8/2 Blood cx x3- pending
   Assessment and Plan
   71 yo male w/ PVD/ gangrene, ESRD on HD, CAD s/p NSTEMI, admitted [**8-16**]
   w/ presumed septic shock due to gangrene/ osteo as well as altered
   mental status.
   Goals of care: pt had expressed a desire for DNR/DNI but code status
   kept somewhat unclear due to some discordance between family members
   -family [**Name2 (NI) 9860**] set up for this am to discuss overall critical illness and
   goals of care
   -per [**Doctor First Name **] DNR/DNI would preclude aggressive mgmt,
   Shock: presumably due to sepsis given several possible infectious
   sources. Also w/ underlying cardiac disease
   -currently dependent on norepi gtt.
   -fluid responsive from 1.7L IVF but w/ depressed EF and increased O2
   req't
   -echo pending
   -would ideally like to place an SVC central line but goals of care
   discussion as below will dictate this
   Presumed Sepsis: sources include gangrene, HD line, endocarditis
   -on vanco + ciproflox+ pip-tazo for now
   -pan cx pending
   -pending goals of care
   PVD/Gangrene:
   -appreciate Vas [**Doctor First Name **] input
   -currently covering broadly w/ ABX above
   -would need amputation if cont'd aggressive care
   -further mgmt pending fam [**Doctor First Name 9860**] as above
   Confusion: likely related to systemic infection
   -tx as above
   CAD, NSTEMI: on [**Doctor First Name 369**]/[**Doctor First Name **]/ coumadin
   -hold BP meds in shock state
   -echo pending as above
   Coagulopathy: 3.0 on coumadin for afib; exacerbated on broad spectrum
   antibiotics and poor nutrition.
   -hold coumadin, follow INR - if it continues to rise consider vitamin
   K.
   ICU Care
   Nutrition:
   Comments: npo pending goals of care [**Doctor First Name 9860**]
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2144-8-16**] 06:46 PM
   20 Gauge - [**2144-8-16**] 06:46 PM
   Dialysis Catheter - [**2144-8-17**] 08:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 78M ESRD, CAD / DCM, AF on coumadin, HTN,
   severe PVD, altered mental status at rehab, initially p/w hypotension
   and leukocytosis to OSH - sources include gangrenous foot, HD line, or
   (less likely) lungs.
   Exam notable for Tm 97.1 BP 102/60 HR 80 RR 18 with sat 94-100 on 4LNC.
   WD man, responds to simple commands, denies pain. Coarse BS with
   intermittent exp wheeze. RRR s1s2. Soft +BS, mild diffuse tenderness.
   Severe distal gangrene as outlined. Labs notable for WBC 14K, HCT 35,
   K+ 4.0, Cr 5.3, Tn 0.25, lactate 2.1. CXR with medial BLL changes, EKG
   low volts.
   Agree with plan to manage septic shock with IVF bolus now, weaning of
   levophed as able, and broad antibiotic coverage with zosyn, cipro and
   vanco dosed to level, while awaiting culture results. Suspect much of
   this is driven by deep tissue infection in his feet. Will check echo
   for possible endocarditis and to r/o effusion given hypotension and low
   volts. Will recheck CXR in the setting of volume resuscitation,
   especially given low EF. Severe PVD with gangrene and likely osteo -
   continue [**Year (4 digits) **] and [**Year (4 digits) 1495**], vascular following, will check arterial
   studies today. Will hold off on arterial line given severity of PVD and
   will resite CVL or place PICC after discussing risks and benefits with
   the family. HD per renal team for ESRD, no acute indication at this
   point, will try to get him off pressors to avoid CVVH. Will get wound
   care consult for multiple ulcers. For poorly controlled DM, will hold
   off on insulin drip given hypoglycemia, and will continue RISS. In
   terms of the overall direction of care, it is unclear at this point if
   patient would want further invasive procedures, including foot
   amputation to control sepsis, at this point. Plan for family meeting
   with Vietnamese interpreter at noon. Remainder of plan as outlined
   above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 33**], MD
   on:[**2144-8-17**] 12:55 ------

2144-08-18 07:40:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
   [**2144-8-17**]
   -family mtg-confirmed DNR/DNI without escalation of care. Wanted to
   visit with pt prior to official CMO. Family would like to wait until 2
   sons arrive tomorrow by noon to officially withdraw pressors and
   provide morphine gtt, morphine bolus for now
   -vasc informed of goals of care
   -called over to [**Location (un) **] [**Location (un) **]-state cxs actually drawn at [**Hospital1 9878**]-NGTD
   -echo showing diffusely thickened values, severely depressed EF ~20%.
   - antibiotics were stopped
   History obtained from Family / Friend, Interpreter
   [**Name (NI) 53**] unable to provide history: Unresponsive, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-8-16**] 08:44 PM
   Ciprofloxacin - [**2144-8-16**] 11:44 PM
   Piperacillin - [**2144-8-16**] 11:45 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2144-8-18**] 04:00 AM
   Other medications:
   Levophed
   Moprhine prn
   Atrovent
   Pantoprazole
   albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-18**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 100 (85 - 113) bpm
   BP: 94/53(62) {83/21(41) - 126/102(117)} mmHg
   RR: 36 (14 - 51) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,703 mL
                                                                    262 mL
   PO:
             TF:
   IVF:
                                                                  1,603 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,703 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 83%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   10.6 g/dL
   21 mg/dL
   5.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   41 mg/dL
   100 mEq/L
   141 mEq/L
   34.9 %
   14.7 K/uL
        [image002.jpg]
                             [**2144-8-16**]  06:24 PM
                             [**2144-8-16**]  06:35 PM
                             [**2144-8-16**]  09:00 PM
                             [**2144-8-16**]  11:00 PM
                             [**2144-8-17**]  12:00 AM
                             [**2144-8-17**]  04:36 AM
   WBC
   14.0
   14.7
   Hct
   33.9
   34.9
   Plt
   261
   277
   Cr
   5.1
   5.3
   TropT
   0.24
   0.25
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 9855**]50
   21
   Other labs: PT / PTT / INR:33.6/40.3/3.4, CK / CKMB /
   Troponin-T:87//0.25, ALT / AST:35/24, Alk Phos / T Bili:165/0.7,
   Differential-Neuts:91.3 %, Band:0.0 %, Lymph:4.0 %, Mono:3.8 %, Eos:0.8
   %, Lactic Acid:2.1 mmol/L, Albumin:3.1 g/dL, LDH:192 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9848**] is a 71 year old male with ESRD on HD, PVD, CAD s/p NSTEMI,
   here with altered mental status and sepsis requiring pressors likely
   secondary to osteo of right foot, although line infection or other
   sites of osteo cannot be excluded.  Plan to become CMO today after
   arrival of family members.
   .
   Goals of care.  Family meeting yesterday to make patient DNR/ DNI with
   no escalation of care.  Plan to make patient CMO today after his family
   members arrive.
   .
   Sepsis.  Hypotension likely secondary to sepsis given that patient has
   elevated WBC and large amounts of necrotic tissue on both feet and
   hands.  Suspect that right foot osteo is the source, but may also be
   secondary to bacterial seeding from skin breakdown, line infection (has
   tunnelled HD line), or other occult source.  No clear source of
   pneumonia.  Given low voltages, will get echo to evaluate for effusion
   (though echo today at OSH did not show temponade).  Also, echo can be
   obtained to look for endocarditis.
   - follow up blood cultures, UA, UCx
   - f/u final read of foot and hand films to evaluate for osteo
   - vascular following but do not feel foot is the source
   - vanco/zosyn/cipro for double gram negative coverage in setting of
   diabetic foot osteo and GPC for dialysis patient with tunelled HD line
   - echo to evaluate EF and look for endocarditis
   - cycle cardiac enzymes
   - Levophed to maintain MAPS> 60, consider starting vasopressin if this
   causes significant tachycardia
   - obtain OSH records of micro data
   .
   Gangrenous foot and digits/ PVD.  Patient has b/l gangrenous toes and
   toe stumps which have significantly worsened over the last year. In
   [**10-22**], he was noted to have "a 2-cm ulceration over the site of the
   fifth digit TMA [on the left foot]."  Vascular evaluated the patient,
   but do not feel that he needs urgent amputation.  Foot films
   demonstrated osteo worst at the right foot.  He is likely not a
   surgical candidate given his recent NSTEMIs and was declined for
   revascularization.
   - vascular consult for management of gangrenous extremities
   - ABIs per vascular
   - vanco/zosyn/cipro to cover infection
   - continue aspirin, plavix
   - morphine PRN foot pain
   .
   Altered mental status.  Even with vietnamese translator, patient was
   confused, although has had some improvement of mental status throughout
   the night.  Likely delerium in the setting of hypotension and
   infection.  OVerall seems to be improving.
   - continue broad spectrum antibiotics
   - continue IVFs and pressors to maintain MAPs> 60
   - limit sedating meds, but will resume seroquel given agitation
   - will continue morphine in spite of sedating effects given the degree
   of his pain
   - consider head CT if no improvement of mental status over 24 hours
   .
   Type 2 Diabetes.  Patient presented with hypoglycemia at OSH but was
   hyperglycemic on arrival.  Had episodes of hypoglycemia overnight on
   insulin drip so transistion to ISS.
   - HISS
   - follow fingersticks
   .
   End stage renal disease on HD.  Likely secondary to diabetic
   nephropathy.  Has hyperphosphatemia.  No urgent dialysis needs.
   - will notify renal of his arrival, patient typically gets HD MWF but
   at this point would need CVVH given hypotension requiring pressors
   - initiate phos binders when eating
   .
   Hypertension.
   - hold antihypertensives in setting of hypotension requiring pressors
   .
   Coronary Artery Disease.  Patient with ischemic cardiomyopathy and
   significantly reduced EF over the course of 1 year.  Was told that he
   needed revascularization but was not felt to be a cath candidate.
   - continue aspirin and statin
   - hold BB
   .
   Depression.
   - continue seroquel, celexa
   .
   H/o A.fib with RVR.
   - hold coumadin in setting of supratherapeutic INR
   - follow INR
   .
   .
   FEN: NPO pending improvement of mental status
   CODE: DNR/DNI
   PPx: coumadin, bowel regimen, PPI
   Dipso: ICU monitoring pending improvement of blood pressure
   Contact:  [**Name (NI) **] Mother - [**Telephone/Fax (1) 9850**] (h), cell is [**Telephone/Fax (1) 9851**].
   Sister  [**Telephone/Fax (1) 9852**] who is coming in from NJ this morning.  Another
   Sister - [**Telephone/Fax (1) 9853**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2144-8-16**] 06:46 PM
   20 Gauge - [**2144-8-16**] 06:46 PM
   Dialysis Catheter - [**2144-8-17**] 08:06 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor